US06174884B1
6-(4-chloro-benzyl)-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1,5-dihydro-pyrazolo-[3,4-d]pyrimidin-4-one
Starting from 400 mg (1.32 mmol) of 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-pyrazole-4-carboxamide and 626 mg (3.77 mmol) of 4-chlorophenylacetyl chloride, the title compounds are prepared analogously to the protocol of Example 13. This gives 150 mg (26%) of the diastereomer which elutes more rapidly, M.p.: 125° C., and 90 mg (16%) of the diastereomer which elutes more slowly, M.p.: 101° C.

reactant | 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-pyrazole-4-carboxamide | 1.32 mmol, 400 mg | NC1=C(C=NN1C(CCCC1=CC=CC=C1)C(C)O)C(=O)N | C16H22N4O2
reactant | 4-chlorophenylacetyl chloride | 3.77 mmol, 626 mg | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
product | 6-(4-chloro-benzyl)-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1,5-dihydro-pyrazolo-[3,4-d]pyrimidin-4-one | ClC1=CC=C(CC=2NC(C3=C(N2)N(N=C3)C(CCCC3=CC=CC=C3)C(C)O)=O)C=C1 | C24H25ClN4O2
